US06268354B1
In DMF (5.0 ml) was dissolved tert-butyl 4-methyl-aminobutyrate (1050 mg), and to the mixture was added at room temperature a solution of 5-bromo-2-fluorobenzaldehyde (1025 mg) in DMF (1.0 ml) and then potassium carbonate (837 mg). The mixture was stirred at 70° C. for 60 hours, and to the mixture was added at room temperature water (50 ml). The mixture was extracted with ethyl acetate (50 ml×3), and the organic layer was washed with saturated brine (50 ml×3) and dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified with silica gel column chromatography (75 g, hexane:ethyl acetate=10:1) to give tert-butyl 4-(4-bromo-2-formyl-N-methylanilino)butyrate (1620 mg, 90%).

reactant | tert-butyl 4-methyl-aminobutyrate | 1050 mg | CCCC(C(=O)OC(C)(C)C)N | C9H19NO2
reactant | 5-bromo-2-fluorobenzaldehyde | 1025 mg | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | potassium carbonate | 837 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 ml | O | H2O
reactant | DMF | 5.0 ml | CN(C)C=O | C3H7NO
reactant | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-(4-bromo-2-formyl-N-methylanilino)butyrate | 1620 mg, 90% | BrC1=CC(=C(N(C)CCCC(=O)OC(C)(C)C)C=C1)C=O | C16H22BrNO3
